US07687502B2
(5-Fluoropyridin-2-yl)-6-(1,2,4-triazol-3-yl-sulfanyl)pyrido[3,2-d]pyrimidin-4-yl-amine
The compound of Example 50 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 3-mercapto-[1,2,4]triazole, 2-amino-5-fluoropyridine and 4,6-dichloro-pyrido[3,2-d]pyrimidine.

reactant | 3-mercapto-[1,2,4]triazole | SC1=NNC=N1 | C2H3N3S
reactant | 2-amino-5-fluoropyridine | NC1=NC=C(C=C1)F | C5H5FN2
reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
product | (5-Fluoropyridin-2-yl)-6-(1,2,4-triazol-3-yl-sulfanyl)pyrido[3,2-d]pyrimidin-4-yl-amine | FC=1C=CC(=NC1)NC=1C2=C(N=CN1)C=CC(=N2)SC2=NNC=N2 | C14H9FN8S
